US08304419B2
Step E: 3-chloro-5-[(6-chloro-2-fluoro-3-methylphenyl)oxy]benzonitrile
To an oven dried flask was added CuCl2 (2.5 g, 18.0 mmol). The flask was placed under high vacuum, flushed with nitrogen and acetonitrile (10 ml) was added. t-Butyl nitrite (2.7 mL, 22.5 mmol) was added dropwise. The stirred solution was placed in a an oil bath at 50° C. under gentle stream of nitrogen and 3-[(6-amino-2-fluoro-3-methylphenyl)oxy]-5-chlorobenzonitrile dissolved in acetonitrile (15 mL) was added dropwise. The reaction was stirred for 0.5 h, cooled to RT and poured into ice cold, aqueous HCl (0.5 N, 100 mL). EtOAc (100 mL) was added and the layers were separated. The aqueous layer was extracted with EtOAc (2×100 mL). The organic extracts were combined, dried over Na2SO4, filtered and evaporated. Purification was accomplished by column chromatography (hexane/EtOAc) to afford the title compound (1.8 g, 67%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.79 (s, 1H), 7.48 (s, 1H), 7.44 (t, 1H), 7.41 (d, 1H), 7.31 (t, 1H), 2.27 (d, 3H).

reactant | t-Butyl nitrite | 22.5 mmol, 2.7 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 3-[(6-amino-2-fluoro-3-methylphenyl)oxy]-5-chlorobenzonitrile | NC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)Cl)F)C | C14H10ClFN2O
reactant | HCl | 0.5 N, 100 mL | Cl | ClH
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-chloro-5-[(6-chloro-2-fluoro-3-methylphenyl)oxy]benzonitrile | 1.8 g, 67% | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)C)F | C14H8Cl2FNO
